US04910201
Synthesis of 4-bromo-5-(4-chlorobenzyloxy)-2-(4-chlorophenyl)-3(2H)-pyridazinone (Compound No. 28)
In 35 ml of N,N-dimethylformamide were dissolved 1.5 g (4.1 m mol) of 2-(4-chlorophenyl)-4,5-dibromo-3(2H)-pyridazinone and 0.59 g (4.1 m mol) of p-chlorobenzyl alcohol, and thereto was added 0.27 g of powdery potassium hydroxide. The reaction mixture was stirred for one day at room temperature. The resulting solution was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and freed of solvent by distillation under reduced pressure. The crystals thus obtained were recrystallized from ethyl acetate-benzene to give 1.4 g of the intended compound.

reactant | 2-(4-chlorophenyl)-4,5-dibromo-3(2H)-pyridazinone | 1.5 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)Br)Br | C10H5Br2ClN2O
reactant | p-chlorobenzyl alcohol | 0.59 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | potassium hydroxide | 0.27 g | [OH-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 4-bromo-5-(4-chlorobenzyloxy)-2-(4-chlorophenyl)-3(2H)-pyridazinone | 1.4 g | BrC=1C(N(N=CC1OCC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C17H11BrCl2N2O2
